US04623376
Preparation of 4-methyl-3-methoxy-6-phenylpyridazine
Sodium methoxide (243 g) is cautiously added to a solution of 3-chloro-4-methyl-6-phenylpyridazine (307 g, 1.5 mol) in 3.4 L of methanol. The mixture is heated to refluxing temperature for approximately eight hours under an atmosphere of nitrogen and then poured into water (4.5 L). The resulting precipitate is collected, washed with water, and dried to give 270 g (90%) of product with a melting point of 62°-64° C.

reactant | Sodium methoxide | 243 g | C[O-].[Na+]
reactant | 3-chloro-4-methyl-6-phenylpyridazine | 1.5 mol, 307 g | ClC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H9ClN2
reactant | water | 4.5 L | O | H2O
solvent | methanol | 3.4 L | CO | CH4O
product | 4-methyl-3-methoxy-6-phenylpyridazine | 270 g, 90% | CC1=C(N=NC(=C1)C1=CC=CC=C1)OC | C12H12N2O
